US09233946B2
N-[3-(1H-Tetrazol-5-yl)phenyl]-3-[4-(trifluoromethyl)phenyl]benzenesulfonamide
The product was synthesized according to General Procedure 1, described in Example 1, starting with {3-[4-(trifluoromethyl)phenyl]phenyl}sulfonyl chloride (17.6 mg, 0.055 mmol) and 5-(3-amino-phenyl)tetrazole (8 mg, 0.05 mmol) yielding 14.3 mg (64%) of the title compound. MS (ESI+) calcd for C20H14F3N5O2S 445.082030, found 445.081660.

reactant | {3-[4-(trifluoromethyl)phenyl]phenyl}sulfonyl chloride | 0.055 mmol, 17.6 mg | FC(C1=CC=C(C=C1)C=1C=C(C=CC1)S(=O)(=O)Cl)(F)F | C13H8ClF3O2S
reactant | 5-(3-amino-phenyl)tetrazole | 0.05 mmol, 8 mg | NC=1C=C(C=CC1)C1=NN=NN1 | C7H7N5
product | N-[3-(1H-Tetrazol-5-yl)phenyl]-3-[4-(trifluoromethyl)phenyl]benzenesulfonamide | 14.3 mg, 64% | N1N=NN=C1C=1C=C(C=CC1)NS(=O)(=O)C1=CC(=CC=C1)C1=CC=C(C=C1)C(F)(F)F | C20H14F3N5O2S
